* C:\IMR_Projects\IMR\Arb_Power_Booster\Simulate\Current Amplifier-1_REV_20.asc
V1 VCC 0 20
V2 VEE 0 -20
R3 N006 VO .1
R4 VO N011 .1
XU3 NC_01 NC_02 NC_03 NC_04 NC_05 NC_06 LT1351
V3 VIN 0 SINE(0 15 10K 1m 0 0 10) AC 15
RL VO 0 3
CL VO 0 300µ
Q3 VEE N010 N005 0 MMBT4403
R1 VCC N005 200
R2 N015 VEE 500
R5 N007 VO .1
R6 VO N012 .1
R7 N009 VO .1
R8 VO N014 .1
D7 VO VCC 1N5817
D8 VEE VO 1N5817
Q15 VCC N010 N015 0 2N4401
Q6 N016 VB2 N011 0 MMBT4403
Q5 N001 VB1 N006 0 2N4401
Q4 N006 N001 VCC 0 2SAR582D3
Q1 N011 N016 VEE 0 2SCR582D3
V4 NC_07 0 15
Q2 N002 VB1 N007 0 2N4401
Q7 N007 N002 VCC 0 2SAR582D3
Q8 N004 VB1 N009 0 2N4401
Q9 N009 N004 VCC 0 2SAR582D3
Q10 N017 VB2 N012 0 MMBT4403
Q11 N012 N017 VEE 0 2SCR582D3
Q12 N019 VB2 N014 0 MMBT4403
Q13 N014 N019 VEE 0 2SCR582D3
R9 N008 VO .1
R10 VO N013 .1
Q14 N003 VB1 N008 0 2N4401
Q16 N008 N003 VCC 0 2SAR582D3
Q17 N018 VB2 N013 0 MMBT4403
Q18 N013 N018 VEE 0 2SCR582D3
R11 VB2 N015 .01
R12 VB1 N005 .01
V5 NC_08 NC_09 SINE(0 15 5K 1m 0 0 10) AC 15
R16 N020 N022 5K
R17 N021 N020 10K
V7 N022 0 2
R18 N023 0 10K
XU1 VIN N010 VCC VEE N010 tlv9352
XU2 N023 N020 VCC VEE N021 tlv9352
.model D D
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\habco\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3m
;ac dec 3m 10 10K
.include OPAx377.LIB
.lib LTC.lib
.lib tlv9352.lib
.backanno
.end
